US04551460
A solution of 5.1 g of N-[7-(3-pyridyl)heptyl]acetamide was heated to reflux in diluted hydrochloric acid overnight. The mixture was cooled, made basic with 50% sodium hydroxide solution and was extracted with dichloromethane. The combined organic layers were dried over potassium carbonate and were evaporated. The residue was distilled to give 3.4 g of 3-pyridine heptanamine, bp 175°-180° C./0.4 mm.

reactant | N-[7-(3-pyridyl)heptyl]acetamide | 5.1 g | N1=CC(=CC=C1)CCCCCCCNC(C)=O | C14H22N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 3-pyridine heptanamine | 3.4 g | N1=CC(=CC=C1)CCCCCCCN | C12H20N2
